US07417169B2
(4′-{2-[(1S,2R)-2-(4-Benzyloxy-3-methanesulfonylaminophenyl)-2-hydroxy-1-methylethylamino]ethoxy}biphenyl-4-yloxy)acetic acid
A mixture of ethyl(4′-{2-[(1S,2R)-2-(4-benzyloxy-3-methanesulfonylaminophenyl)-2-hydroxy-1-methylethylamino]-ethoxy}biphenyl-4-yloxy)acetate (60 mg) and a 2 mol/L aqueous solution of sodium hydroxide (0.138 mL) in tetrahydrofuran (5 mL) was stirred at room temperature for 30 minutes. To the mixture was added 2 mol/L hydrochloric acid (0.138 mL), and the solvent was evaporated under reduced pressure. The residue was washed with water to afford the title compound (0.054 g).

reactant | ethyl(4′-{2-[(1S,2R)-2-(4-benzyloxy-3-methanesulfonylaminophenyl)-2-hydroxy-1-methylethylamino]-ethoxy}biphenyl-4-yloxy)acetate | 60 mg | C(C)OC(COC1=CC=C(C=C1)C1=CC=C(C=C1)OCCN[C@H]([C@H](O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)C)=O | C35H40N2O8S
reactant | sodium hydroxide | 0.138 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2 mol/L, 0.138 mL | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (4′-{2-[(1S,2R)-2-(4-Benzyloxy-3-methanesulfonylaminophenyl)-2-hydroxy-1-methylethylamino]ethoxy}biphenyl-4-yloxy)acetic acid | 0.054 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H]([C@H](C)NCCOC1=CC=C(C=C1)C1=CC=C(C=C1)OCC(=O)O)O)NS(=O)(=O)C | C33H36N2O8S
